US05696054
Preparation of 6-formyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 121)
Pyridinium chlorochromate (4.70 g) was suspended in dichloromethane (20 ml), and a dichloromethane solution (27 ml) of 6-hydroxymethyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 53, 4.70 g) was added thereto at room temperature. After stirring for about 9 hours, a large amount of ether was added and separated by decantation. The organic layer was dried with magnesium sulfate and the solvent was evaporated. The crude product was purified by silica gel chromatography to afford the captioned compound (4.47 g, yield 96%).

reactant | Pyridinium chlorochromate | 4.70 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 6-hydroxymethyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 4.70 g | OCC1=C(C(N(CO1)C(C)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C20H21NO3
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 27 ml | ClCCl | CH2Cl2
product | 6-formyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 4.47 g, yield 96% | C(=O)C1=C(C(N(CO1)C(C)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C20H19NO3
